US06335360B1
5-Benzyloxyindoline-2(R/S)-carboxylic acid methylester
5-Benzyloxyindole-2-carboxylic acid ethylester (3 g, 10.1 mmol) and magnesium turnings (1.2 g, 50 mmol) were suspended in dried methanol (180 mL). This mixture was stirred at 5-10° C. under nitrogen for 3 hours, then poured into dichloromethane, and washed with saturated ammonium chloride solution. The organic layer was separated, and the aqueous layer was extracted with dichloromethane. The combined organic layers were dried over sodium sulphate and evaporated to leave a brown solid which was further purified by column chromatography (silica gel, dichloromethane) to afford a white solid.

reactant | 5-Benzyloxyindole-2-carboxylic acid ethylester | 10.1 mmol, 3 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OCC1=CC=CC=C1 | C18H17NO3
reactant | magnesium | 50 mmol, 1.2 g | [Mg] | Mg
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 180 mL | CO | CH4O
product | 5-Benzyloxyindoline-2(R/S)-carboxylic acid methylester | COC(=O)C1NC2=CC=C(C=C2C1)OCC1=CC=CC=C1 | C17H17NO3
